US05969139
A solution of 1.39 g of 3-amino-5,5-dimethyl-2-cyclohexen-1-one, 1.26 g of 5-methyl-cyclohexane-1,3-dione and 1.51 g of 4-bromobenzaldehyde in 18 ml of absolute ethanol and 6 ml of glacial acetic acid was heated under reflux under a nitrogen atmosphere for 12 hours. The mixture was then cooled to room temperature and about 10 ml of water was added until the product precipitated. The product was filtered off and washed with three 50 ml portions of cold diethyl ether to give 9-(4-bromophenyl)-3,4,6,7,9,10-hexahydro-3,3,6(RS)-trimethyl-1,8(2H,5H)-acridinedione as a pale yellow solid. The product was shown to be a 9:1 mixture of diastereoisomers by HPLC and gave a mass ion of 414 (FAB, [M+H]+).

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | 1.39 g | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 5-methyl-cyclohexane-1,3-dione | 1.26 g | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | 4-bromobenzaldehyde | 1.51 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | water | about 10 ml | O | H2O
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 9-(4-bromophenyl)-3,4,6,7,9,10-hexahydro-3,3,6(RS)-trimethyl-1,8(2H,5H)-acridinedione | BrC1=CC=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)C)=O | C22H24BrNO2
